US06440995B1
(RS)-3-(7-Chloro-2-phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 234-236° C., and MS: m/e=328 (M+), was prepared from 4,7-dichloro-2-phenyl-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4,7-dichloro-2-phenyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)Cl)C1=CC=CC=C1 | C15H9Cl2N
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(7-Chloro-2-phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.ClC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)NCC(CO)O | InChI=1S/C18H17ClN2O2.ClH/c19-13-6-7-15-17(20-10-14(23)11-22)9-16(21-18(15)8-13)12-4-2-1-3-5-12;/h1-9,14,22-23H,10-11H2,(H,20,21);1H
